US06100421
To 100 ml DMF, was dissolved 3-chloro-o-cresol in an amount of 13.6 g (0.095 mole), and the resulting solution was then stirred for 2 hours at 80° C. following to the addition of potassium carbonate in an amount of 14.5 g (0.105 mole) and methyl iodide in an amount of 17.6 g (0.124 mole) into the solution at an ambient temperature. After cooling the mixture, insoluble materials therein were separated by filtration, and the mixture was then poured into water and extracted with ethyl ether. The organic layer obtained was washed with saturated saline solution and dried with anhydrous magnesium sulfate, and the solvent remained in the layer was distillated out to obtain 2-chloro-6-methoxytoluene in an amount of 14.6 g. The yield was 95.4%.

reactant | 3-chloro-o-cresol | ClC1=C(C(=CC=C1)O)C | C7H7ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-chloro-6-methoxytoluene | yield was 95.4% | ClC1=C(C(=CC=C1)OC)C | C8H9ClO
